US06673795B2
A mixture of 70 mg (0.27 mmol) of 4-chloro-2-cyclopropylamino-6-(2-hydroxy-ethylamino)-pyrimidine-5-carbonitrile and 0.047 ml (0.27 mmol) of N-ethyl-diisopropylamine in 5 ml of dioxane was treated with 49 mg (0.3 mg) of 1-phenyl-piperazine. The solution was heated to 100° C. during 18 hours, thereafter, for the working-up, evaporated under reduced pressure. For purification, the residue obtained was chromatographed by preparative HPLC on RP18-silica gel using a gradient of a mixture of acetonitrile and water (plus 0.1% of formic acid) as the eluent to give 60 mg (0.16 mmol, 58% of theory) of the 2-cyclopropylamino-4-(2-hydroxy-ethylamino)-6-(4-phenyl-piperazin-1-yl)-pyrimidine-5-carbonitrile as a white powder after lyophilization; MS: [M+H]+=380.

reactant | 4-chloro-2-cyclopropylamino-6-(2-hydroxy-ethylamino)-pyrimidine-5-carbonitrile | 0.27 mmol, 70 mg | ClC1=NC(=NC(=C1C#N)NCCO)NC1CC1 | C10H12ClN5O
reactant | N-ethyl-diisopropylamine | 0.27 mmol, 0.047 ml | C(C)N(C(C)C)C(C)C | C8H19N
reactant | 1-phenyl-piperazine | 49 mg | C1(=CC=CC=C1)N1CCNCC1 | C10H14N2
solvent | dioxane | 5 ml | O1CCOCC1 | C4H8O2
product | 2-cyclopropylamino-4-(2-hydroxy-ethylamino)-6-(4-phenyl-piperazin-1-yl)-pyrimidine-5-carbonitrile | 0.16 mmol, 60 mg, 58% | C1(CC1)NC1=NC(=C(C(=N1)NCCO)C#N)N1CCN(CC1)C1=CC=CC=C1 | C20H25N7O
